US07402684B2
(R)-2-(4-Iodo-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester:
To a 250 mL flask which contained a suspension of NaH (60% in mineral oil, 500 mg, 12 mmol) in DMF (50 mL) was added 4-iodo-phenol (2200 mg, 10 mmol), at 0° C. The mixture was allowed to warm to rt and stir at rt for 30 min then cooled to 0° C. To this reaction mixture was added (R)-2-(toluene-4-sulfonyloxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (3600 mg, 10 mmol) at 0° C. The resulting mixture was allowed warm to rt and stir at rt for 30 min and then was heated to 95° C. and stirred at 95° C. for 16 h. After cooling to rt, the mixture was poured onto 2000 mL ice-water solution and this solution was allowed to stir at 0° C. for 30 min. The solid which formed was filtered out, dried through air to afford the title product (2480 mg, 60%); 1H NMR (400 MHz, CDCl3); δ 1.47 (s, 9H), 1.81-2.07 (m, 4H), 3.27-3.48 (m, 2H), 3.70-3.95 (m, 1H), 4.00-4.19 (m, 2H), 6.66-6.69. (m, 2H), 7.53 (d, J=8.4 Hz, 2H):

reactant | NaH | 12 mmol, 500 mg | [H-].[Na+]
reactant | 4-iodo-phenol | 10 mmol, 2200 mg | IC1=CC=C(C=C1)O | C6H5IO
reactant | (R)-2-(toluene-4-sulfonyloxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 10 mmol, 3600 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C17H25NO5S
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (R)-2-(4-Iodo-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 2480 mg, 60% | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)I | C16H22INO3
